US04795596
Yield: 101 g (=80% of theory) of 1-carboxynaphthalene-6-sulphonic acid (100% pure).
118.6 g (0.5 mol) of 1-aminomethylnaphthalene-6-sulphonic acid (100%) are stirred with 375 ml of water and about 50 g of 45% strength NaOH; the pH value of the mixture is brought to 7-7.5. After addition of 149 g of sodium dichromate (0.5 mol), the mixture is heated at 240° C. in an autoclave for 15 hours. After cooling, the green chromium hydroxide residue is filtered off and washed with hot water. The filtrate is acidified to pH 2 with hydrochloric acid (30% strength) under the influence of heat and then cooled to 20° C. The 1-carboxynaphthalene-6-sulphonic acid which precipitates out in the form of its sodium salt is filtered off and washed with 100 ml of saturated NaCl solution.

reactant | 1-aminomethylnaphthalene-6-sulphonic acid | 0.5 mol, 118.6 g | NCC1=CC=CC2=CC(=CC=C12)S(=O)(=O)O | C11H11NO3S
reactant | NaOH | [OH-].[Na+]
reactant | sodium dichromate | 0.5 mol, 149 g | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[Na+].[Na+]
solvent | water | 375 ml | O | H2O
product | 1-carboxynaphthalene-6-sulphonic acid | C(=O)(O)C1=CC=CC2=CC(=CC=C12)S(=O)(=O)O | C11H8O5S
